US04337197
(A) N-(Phenylacetyl)-L-threonine
L-Threonine (35.7 g) is dissolved in 1 N sodium hydroxide (1 liter) and chilled to -5° to -10° C. To the cold, mechanically stirred solution is added dropwise phenylacetyl chloride (46.3 g). The reaction mixture is stirred for about 16 hours as the temperature rises to 26° C. The mixture is washed with ether, acidified to pH 2 with hydrochloric acid, and extracted with ethyl acetate (two times). The combined extracts are dried over sodium sulfate and concentrated under reduced pressure until crystalline solids form. Ether is added to the mixture and the crystals are collected (34.8 g); melting point 161°-163° C.

reactant | L-Threonine | 35.7 g | N[C@@H]([C@H](O)C)C(=O)O | C4H9NO3
reactant | phenylacetyl chloride | 46.3 g | C1(=CC=CC=C1)CC(=O)Cl | C8H7ClO
reactant | Ether | CCOCC | C4H10O
solvent | sodium hydroxide | 1 N, 1 liter | [OH-].[Na+]
product | N-(Phenylacetyl)-L-threonine | C1(=CC=CC=C1)CC(=O)N[C@@H]([C@H](O)C)C(=O)O | C12H15NO4
